US07855193B2
1-((4-(5-isobutylbenzofuran-2-yl)phenyl)methyl)azetidine-3-carboxylic acid (Step 4 in Scheme 2)
A mixture of 4-(5-isobutylbenzofuran-2-yl)benzaldehyde (30 mg, 0.11 mmol), acetic acid (10 μL, 0.15 mmol) and azetidine-3-carboxylic acid (16 mg, 0.16 mmol) in DCM/MeOH (1:1, 2 mL) was stirred at room temperature for 1 h. Sodium cyanoborohydride (3.4 mg, 0.054 mmol) was added and the reaction mixture was stirred for 3 h at room temperature. After concentration of solvent under reduced pressure, the resulting residue was dissolved in an aliquot of DMSO and purified by reverse phase preparative HPLC (Phenomenex reverse phase Luna 5μ C18(2) column, 60×21.2 mm ID) to yield the desired final product (25.6 mg, 65% yield) as a colorless film: >95% purity by LCMS, ESI-MS: 364.0 (M+H)+, 1H NMR (400 MHz, CD3OD) δ 7.99 (d, 2H), 7.55 (d, 2H), 7.42 (d, 1H), 7.39 (s, 1H), 7.24 (s, 1H), 7.12 (dd, 1H), 4.44 (s, 2H), 4.33(d, 4H), 3.68 (m, 1H), 2.57 (d, 2H), 1.90 (m, 1H), 0.92 (d, 6H).

reactant | 4-(5-isobutylbenzofuran-2-yl)benzaldehyde | 0.11 mmol, 30 mg | C(C(C)C)C=1C=CC2=C(C=C(O2)C2=CC=C(C=O)C=C2)C1 | C19H18O2
reactant | acetic acid | 0.15 mmol, 10 μL | C(C)(=O)O | C2H4O2
reactant | azetidine-3-carboxylic acid | 0.16 mmol, 16 mg | N1CC(C1)C(=O)O | C4H7NO2
reactant | Sodium cyanoborohydride | 0.054 mmol, 3.4 mg | C(#N)[BH3-].[Na+]
solvent | DCM MeOH | 2 mL | C(Cl)Cl.CO
solvent | DMSO | CS(=O)C | C2H6OS
product | 1-((4-(5-isobutylbenzofuran-2-yl)phenyl)methyl)azetidine-3-carboxylic acid | 25.6 mg, 65% yield | C(C(C)C)C=1C=CC2=C(C=C(O2)C2=CC=C(C=C2)CN2CC(C2)C(=O)O)C1 | C23H25NO3
